US05624943
A solution of 330 mg of 5-[3-methoxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-5-oxopentanoic acid methyl ester in 3 ml of 48% hydrobromic acid is refluxed for 13 hours. The hydrobromic acid is distilled off, the residue is dissolved in water, adjusted to pH 4 with concentrated ammonia solution, shaken out with ethyl acetate, the organic phase is dried on sodium sulfate and concentrated by evaporation. 190 mg of 5-[2-(2-carboxyethyl)-3-hydroxy-6-pyridyl]-5-oxopentanoic acid is obtained as crude product of melting point 134°-136° C. 180 mg of this crude product is dissolved in 5 ml of methanol with 60 mg of Amberlyst 15 and stirred for 16 hours at room temperature. The reaction mixture is filtered on diatomaceous earth, the filter residue is washed with ethyl acetate, the filtrate is concentrated by evaporation, and the crude product is chromatographed on silica gel with hexane/0-15% ethyl acetate. 75 mg of 5-[3-hydroxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-5-oxopentanoic acid methyl ester is obtained as yellow oil.

reactant | 5-[3-methoxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-5-oxopentanoic acid methyl ester | 330 mg | COC(CCCC(=O)C1=CC=C(C(=N1)CCC(=O)OC)OC)=O | C16H21NO6
solvent | hydrobromic acid | 3 ml | Br | BrH
product | 5-[2-(2-carboxyethyl)-3-hydroxy-6-pyridyl]-5-oxopentanoic acid | 190 mg | C(=O)(O)CCC1=NC(=CC=C1O)C(CCCC(=O)O)=O | C13H15NO6
